US05424295
2-Amino-6-methoxy-9-(2-O-valeryl-β-D-arabinofuranosyl)-9H-purine
2-Amino-9-(3,5-di-O-tert-butyldimethylsilyl-2-O-valeryl-β- D-arabinofuranosyl)-6-methoxy-9H-purine (1.4 g, 2.3 mmol) was taken up in tetrahydrofuran (THF, 40 mL) and cooled in an ice bath to 5° C. Acetic acid (0.06 mL, 10 mmol) was added, followed by tetrabutylammonium fluoride (TBAF) as a 1M solution in THF (10 mL, 10 mmol). After 18 hours at 5° C., the reaction mixture was diluted with CHCl3 (40 mL) and passed through a pad of silica gel (230-400 mesh, 5×5 cm) with 1:1 acetone:CHCl3 (500 mL). The filtrate was concentrated and purified on a Chromatotron fitted with a 4 mm rotor and eluted with neat ethyl acetate. Pure product was obtained from the column as a white foam 0.72 g (78%) after drying and was shown to be the desired 2'-O-valeryl derivative: m.p.: 83°-86° C. (uncorrected); UV λmax (δ): pH=7.00:280.0 nm (7,800), 247.8 nm (8,400); 0.1N HCl: 278.6 (8,000), 248.7 (7,400); 0.1N NaOH: 286.2 (7,600), 244.9 (7,200); MS (El): m/z 381 (C16H23N5O6), 351 (C15H21N5O5), 292 (C13H18N5O3), 279 (C11H13N5O4), 249 (C10H11N5O3), 217 (C10H17O5), 194 (C7H8N5O2), 165 (C6H7N5O), 135 (C5H5N4), 85(C5H9O). IR(KBr) 1745.2, 1613.3 and 1588.7cm-1. 1H-NMR (Me2SO-d6): δ7.93(s, 1H, H-2),6.46(br s, 2H, NH2 ),6.26(d, 1H, H-1', J=5.9Hz), 5.79(d, 1H, 3'-OH, J=5.1 Hz), 5.23 (t, 1H, H-2', J=5.8 Hz), 5.02 (t, 1H, 5'-OH, J=5.6 Hz), 4.36 (ddd, 1H, H-3', J3',3'--OH =5.1 Hz, J2',3' =5.7 Hz, J3',4' =5.8 Hz), 3.93 (s, 3H, Pur-OCH3), 3.83-3.78 (m, 1H, H-4'), 3.68-3.61 (m, 2H, H-5'), 2.09 (dt, 1H, C(O)CH2, J=7.5 Hz, J=15 Hz), 1.93 (dt, 1H, C(O)CH2, J=7.5 Hz, J=15 Hz), 1.30-0.90 (m, 4H, --CH2CH2--), 0.65 (t, 3H, --CH3, J= 7 Hz). Anal. Calcd. for C16H23N5O6.0.15 C5H10O3 : Calcd: C, 50.41; H, 6.22; N, 17.29. Found: C, 50.41; H, 6.59; N, 17.40.

reactant | 2-Amino-9-(3,5-di-O-tert-butyldimethylsilyl-2-O-valeryl-β- D-arabinofuranosyl)-6-methoxy-9H-purine | 2.3 mmol, 1.4 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H](OC(CCCC)=O)[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O1)CO[Si](C)(C)C(C)(C)C)OC | C28H51N5O6Si2
reactant | Acetic acid | 10 mmol, 0.06 mL | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetone | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 10 mmol, 10 mL | O1CCCC1 | C4H8O
product | 2-Amino-6-methoxy-9-(2-O-valeryl-β-D-arabinofuranosyl)-9H-purine | 0.72 g, 78% | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H](OC(CCCC)=O)[C@H](O)[C@H](O1)CO)OC | C16H23N5O6
